US05256645
2.36 ml (2 mmol) of a 0.76N solution of phenyllithium in ether are sprayed at -75° into 355 mg (1 mmol) of 3-t-butyl 5-methyl (4S,5R)-4-(cyclohexylmethyl)-2,2-dimethyl-3,5-oxazolidinedicarboxylate in 20 ml of ether and the reaction mixture is stirred at this temperature for 30 minutes, subsequently poured into 50 ml of saturated ammonium chloride solution and extracted three times with 150 ml of ether each time. The three ether extracts are washed in succession with in each case 70 ml of 2N sodium bicarbonate solution and 70 ml of saturated sodium chloride solution, combined, dried over magnesium sulphate, filtered and evaporated. The residual oil (540 mg) is chromatographed on 30 g of silica gel with a 98:2 mixture of toluene and ethyl acetate as the eluting agent, whereby there are obtained 300 mg of t-butyl (4S,5R)-5-benzoyl-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate as a white solid, MS: 401 (M)+.

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | 3-t-butyl 5-methyl (4S,5R)-4-(cyclohexylmethyl)-2,2-dimethyl-3,5-oxazolidinedicarboxylate | 1 mmol, 355 mg | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1C(=O)OC)(C)C)C(=O)OC(C)(C)C | C19H33NO5
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | t-butyl (4S,5R)-5-benzoyl-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 300 mg | C(C1=CC=CC=C1)(=O)[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1 | C24H35NO4
